US08633173B2
1,1′-[1,2,4]triazolo[1,5-a]pyridine-2,5-diyldi-1,2,3,4-tetrahydroquinoline was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (500.0 mg, 2.15 mmol) and 1,2,3,4-tetrahydro-quinoline (274.0 mg, 2.04 mmol) in a manner analogous to Example 2d. Byproduct was isolated as a brown solid (0.033 g, 4%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.14 (d, J=8.2 Hz, 1H), 7.40-7.35 (m, 1H), 7.32-7.28 (m, 1H), 7.15-7.05 (m, 3H), 6.98 (t, J=7.5 Hz, 1H), 6.91-6.84 (m, 2H), 6.69-6.62 (m, 2H), 4.09-4.05 (m, 2H), 3.88-3.83 (m, 2H), 2.93 (t, J=6.4 Hz, 2H), 2.82 (t, J=6.4 Hz, 2H), 2.10-1.80 (m, 4H). MS=382 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.15 mmol, 500.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 1,2,3,4-tetrahydro-quinoline | 2.04 mmol, 274.0 mg | N1CCCC2=CC=CC=C12 | C9H11N
product | 1,1′-[1,2,4]triazolo[1,5-a]pyridine-2,5-diyldi-1,2,3,4-tetrahydroquinoline | N=1C(=NN2C1C=CC=C2N2CCCC1=CC=CC=C21)N2CCCC1=CC=CC=C21 | C24H23N5
